US09387200B2
{[7-Cyano-3-(4-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid
A mixture of {[7-bromo-3-(4-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid (105 mg, 0.246 mmol), Pd2(dba)3 (22.5 mg, 0.0246 mmol), dppf (27.2 mg, 0.0492 mmol), Zn(CN)2 (28.9 mg, 0.246 mmol), Zn dust (1.6 mg, 0.0246 mmol), and DMA (0.49 mL) was stirred at 120° C. for 1 h. After cooling to r.t. the mixture was concentrated in vacuo. The residue was purified by flash column chromatography on silica gel. Elution with 0-20% MeOH/CH2Cl2/0.1% HCOOH gave the title compound as a white solid (21.8 mg): MS (m/z) 371.1 (M−1).

reactant | {[7-bromo-3-(4-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid | 0.246 mmol, 105 mg | BrC=1N=C(C(=C2C1SN=C2C2=CC=C(C=C2)F)O)C(=O)NCC(=O)O | C15H9BrFN3O4S
reactant | DMA | 0.49 mL | CC(=O)N(C)C | C4H9NO
catalyst | Pd2(dba)3 | 0.0246 mmol, 22.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 0.0492 mmol, 27.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Zn(CN)2 | 0.246 mmol, 28.9 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Zn | 0.0246 mmol, 1.6 mg | [Zn] | Zn
product | {[7-Cyano-3-(4-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid | 21.8 mg | C(#N)C=1N=C(C(=C2C1SN=C2C2=CC=C(C=C2)F)O)C(=O)NCC(=O)O | C16H9FN4O4S
